US07834039B2
A 25 mL microwave vial equipped with a stirring bar was charged with 3-(3-bromo-4-isopropoxyphenyl)-5-(4-(dimethoxymethyl)phenyl)-1,2,4-oxadiazole (0.25 g, 0.577 mmol), copper(I) cyanide (0.133 g, 1.485 mmol) and pyridine (15 ml). The vessel was capped and the reaction heated to 230° C. for 30 min under microwave irradiation (Biotage Optimizer, 300 W). The solution was cooled, the reaction mixture was concentrated, to the residue was added hydrated ferric chloride (0.8 g), concentrated hydrochloric acid (2 mL) and water (12 mL). The solution was heated at 65° C. for 20 min, the aqueous mixture was extracted by DCM (3×30 mL), the combined DCM layers were washed with FeCl3 solution (2×20 mL), then water (2×20 mL), dried (brine, MgSO4) and concentrated to yield yellow solid, which was purified via silica gel chromatography (40 g, 20% EtOAc:Heptane) to afford 5-(5-(4-(dimethoxymethyl)phenyl)-1,2,4-oxadiazol-3-yl)-2-isopropoxybenzonitrile (0.086 g, 0.227 mmol, 39.3% yield) as pale yellow solid.

reactant | 3-(3-bromo-4-isopropoxyphenyl)-5-(4-(dimethoxymethyl)phenyl)-1,2,4-oxadiazole | 0.577 mmol, 0.25 g | BrC=1C=C(C=CC1OC(C)C)C1=NOC(=N1)C1=CC=C(C=C1)C(OC)OC | C20H21BrN2O4
reactant | copper(I) cyanide | 1.485 mmol, 0.133 g | [Cu]C#N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 5-(5-(4-(dimethoxymethyl)phenyl)-1,2,4-oxadiazol-3-yl)-2-isopropoxybenzonitrile | 0.227 mmol, 0.086 g, 39.3% yield | COC(C1=CC=C(C=C1)C1=NC(=NO1)C=1C=CC(=C(C#N)C1)OC(C)C)OC | C21H21N3O4
